Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Nafcillin / Lisinopril / difficult intubation requires 
LMA
 
Attending: ___.
 
Chief Complaint:
Gangrene R ___ finger 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o CAD s/p CABG x4, multiple cardiac stents, ESRD on PD, 
DM2, LLE osteomyelitis and gangrene of multiple digits of the 
right hand s/p right R ___ finger amputation on ___ and R 
___ finger amputation on ___ now presenting with painful 
right ___ digit. 

According to the patient she had no hand problems until 
approximately 2 months ago, when she noted intermittent episodes 
of discoloration (initially red, later purple) of R ring and 
middle fingers; she states this was not exacerbated by cold, but 
she does endorse cold sensitivity in her hands. Painful blisters 
subsequently developed on finger tips of R hand, followed by 
necrosis, and she therefore underwent two recent figner 
amputations by Dr. ___: R ring finger MCP amputation 
on ___ and R middle finger MCP amputation on ___. 
However, painful blistering then developed over R index finger, 
as well as over L index, middle, and ring fingers within the 
last 2 weeks. She also reports progressive dehiscence of the 
amputation site of the R middle finger, with purulent drainage 
x2 weeks. She was admitted directly from Dr. ___ 
on ___ under Dr. ___ a possible amputation of the 
gangrenous finger.

 
Past Medical History:
PMH: CAD s/p CABG and multiple cath/stents, DM2 c/b retinopathy 
and neuropathy, HTN, HL, dCHF, ESRD on PD, obesity, LLE charcot 
ankle c/b osteomyelitis ___ s/p debridement, dieulafoy's lesion 
c/b massive GI bleed

PSH: CABG x5v ___, PD catheter placement 

 
Social History:
___
Family History:
significant for CAD
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION

Vital Signs: Temp: 98.3 RR: 18 Pulse: 76 BP: 126/70  
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline. 
Nodes: No clavicular/cervical adenopathy. 
Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear. 
Gastrointestinal: Non distended, No masses, Guarding or rebound. 

Rectal: Not Examined. 
Extremeties: 
 - RUE Radial: D. Ulnar: D. 
 - LUE Radial: D. Ulnar: D. 
 - RLE Femoral: P. Popiteal: D. DP: D. ___: D. 
 - LLE Femoral: P. Popiteal: D. DP: D. ___: D. 
Wounds: 
 - Side: Bilateral. RUE: ___ digit amp site is ealing well with
   sutures in place, ___ digit amp site shows some dehiscence 
and some   serosanguinous discharge, ___ digit black, necrotic 
at distal tip
 - LUE: ___ digit black and necrotic at distal tip

PHYSICAL EXAM ON DISCHARGE

Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline. 
Nodes: No clavicular/cervical adenopathy. 
Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear. 
Gastrointestinal: Non distended, No masses, Guarding or rebound. 

Rectal: Not Examined. 
Extremeties: 
 - RUE Radial: D. Ulnar: D. 
 - LUE Radial: D. Ulnar: D. 
 - RLE Femoral: P. Popiteal: D. DP: D. ___: D. 
 - LLE Femoral: P. Popiteal: D. DP: D. ___: D. 
Wounds: 
 - Side: Bilateral. RUE: ___ digit amp site is Healing well with
   sutures in place, ___ digit amp site is clean, ___ digit 
black, necrotic at distal tip
 - LUE: ___ digit black and necrotic at distal tip

 
Pertinent Results:
___ 08:20AM BLOOD WBC-11.5* RBC-2.77* Hgb-7.8* Hct-25.2* 
MCV-91 MCH-28.1 MCHC-30.9* RDW-16.5* Plt ___
___ 06:40AM BLOOD ___ PTT-35.0 ___
___ 03:45PM BLOOD Thrombn-14.5
___ 03:45PM BLOOD ESR-135*
___ 03:45PM BLOOD Lupus-POS ACA IgG-4.2 ACA IgM-6.8
___ 06:40AM BLOOD Glucose-117* UreaN-30* Creat-6.1* Na-142 
K-3.5 Cl-86* HCO3-16* AnGap-44*
___ 06:40AM BLOOD Calcium-10.3 Phos-5.6* Mg-1.8
___ 09:10AM BLOOD VitB12-951*
___ 03:10PM BLOOD PTH-239*
___ 12:45PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE
___ 12:45PM BLOOD ANCA-NEGATIVE B
___ 03:45PM BLOOD ___
___ 03:45PM BLOOD CRP-49.4*
___ 12:45PM BLOOD HCV Ab-NEGATIVE
___ 03:45PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-Test      
 
Brief Hospital Course:
The patient presented as above and was admitted under Dr. 
___. She was started on broad-spectrum IV antibiotics 
and pain control. Her Coumadin was held and she was started on a 
heparin drip. Nephrology and ___ were taken on board to 
manage the patient's dialysis and diabetes respectively. Hand 
surgery was consulted who decided against surgical intervention 
given the absence of infection, cellulitis, and other clinical 
indications for immediate debridement or amputation. 
Additonally, given that the patient's primary complaint was 
diffuse, L > R hand pain, the primary areas of pain were though 
to be outside the areas of critical ischemia. Their impression 
was that amputation of the gangrenous/necrotic tissue would 
likely not effectively treat the patient's pain. 

Nest, rhematology was taken on board to help with diagnosis. 
They recommended holding midodrine (as it could be decreasing 
perfusion to the patient's fingers) and hypercoagulation workup 
which was sent. The work up has been largely non-revealing. 
Although lupus anticoagulant was positive it was thought that 
that could very well be a false positive result given the 
patient's home use of Warfarin.

Per Dr. ___ and his past experiences, the 
patient was started on empiric treatment for calciphylaxis with 
IV sodium thiosulphate. Efforts were made to get a tissue 
diagnosis by asking renal pathology to look at old slides from 
gross amputation samples but the slides were not obtainable. A 
new biopsy had the risk of non-healing so was not attempted. 

Over the course of this hospital stay the patient's symptoms 
have improved. Her pain is currently well-controled on PO meds 
and her tissue deterioration seems to have stabilized. The 
patient agrees that her current management has helped her. The 
plan for now is for her to continue receiving sodium 
thiosulphate on outpatient basis through her paritoneal 
dialysate (her primary nephrologist Dr. ___ has been 
contacted and has agreed to coordinate this). She will maintain 
close follow-up with Vascular Surgery (Drs. ___ 
who will reassess the need for surgical intervention depending 
on how the patient does on medical management.

The patient is being discharged today for home with services on 
PO antibiotics for two weeks and all her home meds except for 
midodrine and warfarin. She will follow up with Dr ___ 
___ in the next ___ weeks with a repeat testing of lupus 
anti-coagulant and with Dr ___ Rheumatology in three 
months.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nystatin Cream 1 Appl TP BID Fungal infection 
Please apply on the patient's buttocks, thighs, stomach and 
under both breasts. 
2. Omeprazole 40 mg PO DAILY 
3. Gabapentin 100 mg PO BID 
4. Midodrine 10 mg PO BID 
5. Nitroglycerin SL 0.3 mg SL PRN chest pain 
6. Lorazepam 1 mg PO QID:PRN anxiety 
7. Metoclopramide 5 mg PO QIDACHS 
Take 30 mins prior to meals. 
8. Ezetimibe 10 mg PO DAILY 
9. Rosuvastatin Calcium 40 mg PO DAILY 
10. Sertraline 100 mg PO DAILY 
11. Aspirin 325 mg PO DAILY 
12. Ferrous GLUCONATE 324 mg PO DAILY 
13. HYDROmorphone (Dilaudid) ___ mg PO Q4H 
14. Lanthanum 1000 mg PO TID W/MEALS 
15. Warfarin 2 mg PO DAILY 
16. Nephrocaps 1 CAP PO DAILY 
17. Glargine 6 Units Breakfast
Glargine 25 Units Bedtime
Humalog 3 Units Breakfast
Humalog 3 Units Lunch
Humalog 3 Units Dinner

 
Discharge Medications:
1. Gabapentin 100 mg PO BID 
2. Nitroglycerin SL 0.3 mg SL PRN chest pain 
3. Sertraline 100 mg PO DAILY 
4. Rosuvastatin Calcium 40 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Metoclopramide 5 mg PO QIDACHS 
7. Lorazepam 1 mg PO QID:PRN anxiety 
8. Lanthanum 1000 mg PO TID W/MEALS 
9. HYDROmorphone (Dilaudid) ___ mg PO Q4H 
RX *hydromorphone 4 mg ___ tablet(s) by mouth every four hours 
Disp #*100 Tablet Refills:*1
10. Ferrous GLUCONATE 324 mg PO DAILY 
11. Ezetimibe 10 mg PO DAILY 
12. Aspirin 325 mg PO DAILY 
13. Nephrocaps 1 CAP PO DAILY 
14. Nystatin Cream 1 Appl TP BID Fungal infection 
15. Lactulose 30 mL PO TID 
RX *lactulose 10 gram/15 mL 30 ml by mouth three times a day 
Disp #*2 Bottle Refills:*0
16. Collagenase Ointment 1 Appl TP DAILY 
RX *collagenase clostridium hist. [Santyl] 250 unit/gram Apply 
to left foot ulcer once daily Disp #*2 Tube Refills:*0
17. Glargine 5 Units Breakfast
Glargine 15 Units Bedtime
Humalog 3 Units Breakfast
Humalog 3 Units Lunch
Humalog 3 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
18. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
19. Docusate Sodium 100 mg PO BID:PRN constipation 
20. Senna 1 TAB PO HS 
21. Sodium Thiosulfate 25 g IV Q3WEEKLY 
22. Minocycline 100 mg PO BID 
RX *minocycline 100 mg 1 capsule(s) by mouth two times per day 
Disp #*30 Capsule Refills:*0
23. Outpatient Lab Work
Lupus Anticoagulant

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Gangrene R ___ finger

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to wheelchair.

 
Discharge Instructions:
Please weight yourself every day. If your weight goes up more 
than 3 lbs please contact your doctor.

Please note the following important changes in your home 
medication:

1. Midodrine and Warfarin have been stopped. Your physicians 
___ the need for these medicines during follow-up 
but donot take these unless specifically instructed.

2. Your insulin regimen has been changed. You were previously 
taking Lantus 6units in the morning and 25 units at bedtime 
along with Novolog and sliding scale insulin. This regimen has 
been changed to Lantus 5 units in the morning and 15 units at 
bedtime alongwith 3 units of humalog before each meal. Please 
refer to the chart that is included with your discharge 
paperwork.

3. You are being started on sodium thiosulphate 25g thrice a 
week. This will be administered to you during your dialysis 
sessions. We have already discussed this with Dr. ___ you 
should also contact him in case you have any questions.
 
Followup Instructions:
___